US06414148B1
Diethyl azodicarboxylate (220 μl, 1.4 mmol) was added dropwise to a mixture of 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (170 mg, 0.46 mmol), (prepared as described for the starting material in Example 48), triphenylphosphine (367 mg, 1.4 mmol) and 3-(1,1-dioxothiomorpholino)-1-propanol (135 mg, 0.7 mmol) in methylene chloride (4 ml) under nitrogen. The mixture was stirred for 1 hour at ambient temperature and further triphenylphosphine (61 mg, 0.23 mmol), 3-(1,1-dioxothiomorpholino)-1-propanol (30 mg, 0.23 mmol) and diethyl azodicarboxylate (37 μl, 0.23 mmol) were added. The mixture was stirred for 1 hour at ambient temperature and the mixture was purified by pouring it on to a column of silica and eluting with methylene chloride/methanol (95/5). The purified product was dissolved in methylene chloride/methanol, 2.2M ethereal hydrogen chloride (1 ml) was added and the volatiles were removed by evaporation. The residue was triturated with ether, collected by filtration, washed with ether and dried under vacuum to give 4-(4-bromo-2-fluoroanilino)-7-(3-(1,1-dioxothiomorpholino)propoxy)-6-methoxyquinazoline hydrochloride (138 mg, 47%).

reactant | Diethyl azodicarboxylate | 1.4 mmol, 220 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.46 mmol, 170 mg | BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11BrFN3O2
reactant | triphenylphosphine | 1.4 mmol, 367 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(1,1-dioxothiomorpholino)-1-propanol | 0.7 mmol, 135 mg | O=S1(CCN(CC1)CCCO)=O | C7H15NO3S
reactant | triphenylphosphine | 0.23 mmol, 61 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(1,1-dioxothiomorpholino)-1-propanol | 0.23 mmol, 30 mg | O=S1(CCN(CC1)CCCO)=O | C7H15NO3S
reactant | diethyl azodicarboxylate | 0.23 mmol, 37 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-bromo-2-fluoroanilino)-7-(3-(1,1-dioxothiomorpholino)propoxy)-6-methoxyquinazoline hydrochloride | 138 mg, 47% | Cl.BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCCN2CCS(CC2)(=O)=O)C=C1)F | InChI=1S/C22H24BrFN4O4S.ClH/c1-31-20-12-16-19(25-14-26-22(16)27-18-4-3-15(23)11-17(18)24)13-21(20)32-8-2-5-28-6-9-33(29,30)10-7-28;/h3-4,11-14H,2,5-10H2,1H3,(H,25,26,27);1H
